US05580870
Using an analogous procedure to that described in Example 5, 4-chloro-7-fluoroquinazoline was reacted with 5-amino-1H-indazole to give 7-fluoro-4-(1H-indazol-5-ylamino)quinazoline hydrochloride in 70% yield, m.p. >300° C.;

reactant | 4-chloro-7-fluoroquinazoline | ClC1=NC=NC2=CC(=CC=C12)F | C8H4ClFN2
reactant | 5-amino-1H-indazole | NC=1C=C2C=NNC2=CC1 | C7H7N3
product | 7-fluoro-4-(1H-indazol-5-ylamino)quinazoline hydrochloride | 70% yield | Cl.FC1=CC=C2C(=NC=NC2=C1)NC=1C=C2C=NNC2=CC1 | InChI=1S/C15H10FN5.ClH/c16-10-1-3-12-14(6-10)17-8-18-15(12)20-11-2-4-13-9(5-11)7-19-21-13;/h1-8H,(H,19,21)(H,17,18,20);1H
